US06544985B2
[2-Amino-4-cyano-5-(isopropyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [4-cyano-5-(isopropyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C28) (1.73 g, 5.17 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as an off-white solid (1.56 g, 99%).

reactant | [4-cyano-5-(isopropyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | 5.17 mmol, 1.73 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C#N)[N+](=O)[O-])=O | C16H22N4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | [2-Amino-4-cyano-5-(isopropyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C(C)C)C#N)N)=O | C16H24N4O2
